US07919630B2
5-Benzyl-2-thiohydantoin
5-Benzylidene-2-thiohydantoin (24.5 g, 0.12 mol) was dissolved in 150 mL of acetic acid in a flask equipped with a thermometer, a mechanical stirrer, a reflux condenser, and argon pressure. Zinc dust (11.8 g, 0.18 mol) was added, and the flask was immersed in a 130° bath. After 2.5 hr at reflux, HPLC analysis showed no starting material. The mixture was allowed to cool to 50°, and a 500 mL portion of methanol was added. The mixture was returned to reflux, for about 5 min and was then allowed to cool to 63°. The hot mixture was filtered through Whatman #4 paper. The filtrate was concentrated to a paste in vacuo. The residue was mixed with 400 mL of a 3:7 mixture of isopropanol:dichloromethane. The solution was filtered and washed with 1×200 mL and 1×100 mL of water and 1×100 mL of saturated aqueous sodium chloride. After the solution had been filtered through 1 PS paper, it was concentrated at aspirator pressure and high vacuum to yield 17.5 g (71%). HPLC analysis indicated a purity of 78% at 210 nm. NMR (d6-DMSO) δ 12.1 (bs, 1H), 10.7 (bs, 1H), 7.8 (s, 5H), 5.2 (t, 1H), 3.6 (d, 2H).

reactant | 5-Benzylidene-2-thiohydantoin | 0.12 mol, 24.5 g | C(C1=CC=CC=C1)=C1C(NC(N1)=S)=O | C10H8N2OS
reactant | methanol | CO | CH4O
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 0.18 mol, 11.8 g | [Zn] | Zn
product | 5-Benzyl-2-thiohydantoin | C(C1=CC=CC=C1)C1C(NC(N1)=S)=O | C10H10N2OS
